US05843942
A solution of benzyl 2-benzyloxy-4-methylbenzoate acid (25 g) in a mixture of THF and methanol was treated with aqueous 2N NaOH (188 ml) and heated under reflux for 12 hours. The reaction mixture was concentrated to half its volume and was diluted with water, extracted once with EtOAc and the aqueous layer was acidified with HCl to pH4. The solid which precipitated was filtered and dried to give 2-benzyloxy-4-methylbenzoic acid (yield 9.73 g).

reactant | benzyl 2-benzyloxy-4-methylbenzoate | 25 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)C | C22H20O3
reactant | NaOH | 2N, 188 ml | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | 2-benzyloxy-4-methylbenzoic acid | yield 9.73 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=CC(=C1)C | C15H14O3
